US06677352B1
A mixture of 2-anilino-5-chloro-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one (80 mg, 0.22 mmol) and dimethylamine (3M in THF, 0.73 mL, 2.20 mmol) in dioxane (3 mL) was heated to 80° C. for 24 h. The reaction mixture was cooled, concentrated in vacuo, diluted with water and the resulting mixture was extracted with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, and concentrated in vacuo to give 2-anilino-5-(dimethylamino)-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one (74 mg, 91%): LCMS RT: 1.86 min, MH+: 371.3

reactant | 2-anilino-5-chloro-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one | 0.22 mmol, 80 mg | N(C1=CC=CC=C1)C=1N(C2=CC(=NC(=C2C(C1)=O)Cl)C)C1=CC=CC=C1 | C21H16ClN3O
reactant | dimethylamine | 2.20 mmol, 3M, 0.73 mL | CNC | C2H7N
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-anilino-5-(dimethylamino)-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one | 74 mg, 91% | N(C1=CC=CC=C1)C=1N(C2=CC(=NC(=C2C(C1)=O)N(C)C)C)C1=CC=CC=C1 | C23H22N4O
